US06720320B2
(S)-4-glycidyloxy-N,N-dimethylbenzo(b)thiophene-2-carboxamide
To a solution of N,N-dimethyl-4-(hydroxymethyloxy)benzo-(b)thiophene-2-carboxamide (9.0 g) in DMF (100 ml) was added potassium carbonate (8.0 g), and (S)-glycidyl nosylate (8.0 g) was further added. The mixture was stirred at 60° C. for 2 hr. The reaction mixture was concentrated under reduced pressure and water was added. The mixture was extracted with ethyl acetate and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate to give the title compound (7.5 g).

reactant | N,N-dimethyl-4-(hydroxymethyloxy)benzo-(b)thiophene-2-carboxamide | 9.0 g | CN(C(=O)C1=CC2=C(S1)C=CC=C2OCO)C | C12H13NO3S
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidyl nosylate | 8.0 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (S)-4-glycidyloxy-N,N-dimethylbenzo(b)thiophene-2-carboxamide | 7.5 g | C([C@@H]1CO1)OC1=CC=CC=2SC(=CC21)C(=O)N(C)C | C14H15NO3S
